US20010041725A1
2-Aminothiophenol (1.2 ml) is added to a solution of 2-phenyl-4,5-dihydro-1,3-oxazol-5-one (1.8 g) in acetic acid (14 ml), and the mixture is stirred for one hour while heating it at 40° C. Water is added to the reaction mixture, and the resulting precipitate is filtered off to give 2-(benzoylaminomethyl)benzothiazole (0.75 g) as crystals.

reactant | 2-Aminothiophenol | 1.2 ml | NC1=C(C=CC=C1)S | C6H7NS
reactant | 2-phenyl-4,5-dihydro-1,3-oxazol-5-one | 1.8 g | C1(=CC=CC=C1)C=1OC(CN1)=O | C9H7NO2
reactant | Water | O | H2O
solvent | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
product | 2-(benzoylaminomethyl)benzothiazole | 0.75 g | C(C1=CC=CC=C1)(=O)NCC=1SC2=C(N1)C=CC=C2 | C15H12N2OS
